US08003659B2
Step I: Synthesis of ethyl (4-fluorophenyl)-[4-{isopropoxy}-3-vinylphenyl]-phosphinate BA2.
To a degassed mixture of 4-fluoro-phenylphosphinate (2.07 g, 11.0 mmol) and 4-bromo-1-isopropoxy-2-vinylbenzene (2.43 g, 10.0 mmol) in acetonitrile (66 mL) were added triethylamine (3.1 mL, 22.0 mmol), palladium acetate (112 mg, 0.5 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (277 mg, 0.5 mmol). The mixture was heated at 68° C. for 24 hrs. The volatiles were removed in vacuo, and the residue was purified by column chromatography using 40 to 80% ethyl acetate in petroleum ether to afford 2.84 g of compound BA2 in 82% yield.

reactant | 4-fluoro-phenylphosphinate | 11.0 mmol, 2.07 g | FC1=CC=C(C=C1)P([O-])=O
reactant | 4-bromo-1-isopropoxy-2-vinylbenzene | 10.0 mmol, 2.43 g | BrC1=CC(=C(C=C1)OC(C)C)C=C | C11H13BrO
reactant | triethylamine | 22.0 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 66 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.5 mmol, 277 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | ethyl (4-fluorophenyl)-[4-{isopropoxy}-3-vinylphenyl]-phosphinate | 2.84 g, 82% yield | FC1=CC=C(C=C1)P(OCC)(=O)C1=CC(=C(C=C1)OC(C)C)C=C | C19H22FO3P
